US07666888B2
N-Ethyl-5-(4-methylphenyl)-N-(pyridin-4-ylmethyl)isoxazole-4-carboxamide
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 4-(ethylaminomethyl)-pyridine (8.2 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (7.8 mg). HRMS calcd for C19H19N3O2: 321.1477, found 321.1485.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 4-(ethylaminomethyl)-pyridine | 0.060 mmol, 8.2 mg | C(C)NCC1=CC=NC=C1 | C8H12N2
product | N-Ethyl-5-(4-methylphenyl)-N-(pyridin-4-ylmethyl)isoxazole-4-carboxamide | C(C)N(C(=O)C=1C=NOC1C1=CC=C(C=C1)C)CC1=CC=NC=C1 | C19H19N3O2
